US06008243
Also according to a procedure from Boger, D. L.; Brotherton, C. E. J: Org. Chem . 1984, 49, 4050-4055, to a solution of 2-(2,5-dimethoxy-tetrahydrofuran-3-yl-methylidene)-1,3-dithiane (200 mg, 0.76 mmol) in a mixture of MeOH:THF:H2O(8:1:1; 10 mL) was added mercuric chloride (450 mg, 1.66 mmol). Upon heating at 80° C., a white precipitate formed, and after 5 hours at 80° C., the mixture was filtered through Celite. The collected solid was washed with EtOAc followed by aqueous. NH4Cl. The filtrates were combined, and the biphasic mixture separated. The aqueousueous layer was extracted twice with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to yield 120 mg (77%) of methyl 2-(2,5-dimethoxy-tetrahydrofuran-3-yl)-acetate as an oil, which was a mixture of diastereomers as evident by NMR, and which was used without further purification. An analytical sample was obtained by flash column chromatography with 0-20% EtOAc/hex as gradient eluant. 1H NMR: δ 3.68 (s, 3H), 3.67 (s, 3H). Anal. Calculated for C9H16O5 : C, 53.27; H, 7.90. Found: C, 53.11; H, 7.96.

reactant | 2-(2,5-dimethoxy-tetrahydrofuran-3-yl-methylidene)-1,3-dithiane | 0.76 mmol, 200 mg | COC1OC(CC1C=C1SCCCS1)OC | C11H18O3S2
reactant | MeOH THF H2O | 10 mL | CO.C1CCOC1.O
product | methyl 2-(2,5-dimethoxy-tetrahydrofuran-3-yl)-acetate | 120 mg, 77% | COC1OC(CC1CC(=O)OC)OC | C9H16O5
